US04281188
95 g (0.30 M) of rac-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-7-nitro-2H-1,4-benzodiazepin-2-one are dissolved in 1 liter of absolute acetone and treated with 60 g of powdered potassium carbonate and 43 g of dimethyl sulphate. The mixture is stirred at room temperature for 4 hours and left to stand in a refrigerator for 48 hours. The mixture is then concentrated, treated with ice-water and extracted several times with methylene chloride. The organic solution is dried over sodium sulphate, filtered and concentrated. The residue is crystallised from ethyl acetate/petroleum ether, there being obtained rac-5-(o-fluorophenyl)-1,3-dihydro-1,3-dimethyl-7-nitro-2H-1,4-benzodiazepin-2-one which melts at 154°-156° C.

reactant | rac-5-(o-fluorophenyl)-1,3-dihydro-3-methyl-7-nitro-2H-1,4-benzodiazepin-2-one | 0.30 M, 95 g | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=C(C=C2)[N+](=O)[O-])=O)C | C16H12FN3O3
reactant | potassium carbonate | 60 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulphate | 43 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 1 liter | CC(=O)C | C3H6O
product | rac-5-(o-fluorophenyl)-1,3-dihydro-1,3-dimethyl-7-nitro-2H-1,4-benzodiazepin-2-one | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=C(C=C2)[N+](=O)[O-])C)=O)C | C17H14FN3O3
